US07148234B2
STEP 1. 2-[4-(3,5-Dimethyl-2-nitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 3 of Example 1 from 4,6-dimethyl-2-fluoronitrobenzene and 4-aminophenylethyl alcohol.

reactant | 4,6-dimethyl-2-fluoronitrobenzene | CC1=CC(=C(C(=C1)C)[N+](=O)[O-])F | C8H8FNO2
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-[4-(3,5-Dimethyl-2-nitroanilino)phenyl]ethanol | CC=1C(=C(NC2=CC=C(C=C2)CCO)C=C(C1)C)[N+](=O)[O-] | C16H18N2O3
